US05985901
2-(4-[1,2,4]triazol-4-yl-phenyl)ethanol
To a stirred solution of 4-[4-(2-benzyloxyethyl)phenyl]-4H-[1,2,4]triazole (0.237 g in 20 mL methanol) was added 183 mg of 10% palladium hydroxide on carbon catalyst followed by 0.20 mL acetic acid. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 11 hours the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo. Purification by flash chromatography (methylene chloride:methanol:ammonium hydroxide, 90:7:1) gave the title compound (0.147 g).

reactant | 4-[4-(2-benzyloxyethyl)phenyl]-4H-[1,2,4]triazole | 20 mL, 0.237 g | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)N1C=NN=C1 | C17H17N3O
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 183 mg | [OH-].[OH-].[Pd+2]
solvent | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
product | 2-(4-[1,2,4]triazol-4-yl-phenyl)ethanol | 0.147 g | N=1N=CN(C1)C1=CC=C(C=C1)CCO | C10H11N3O
